US08236806B2
1-(3-(5-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-(2,3-dimethylphenyl)piperazine (Compound 56)
117 mg (93%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3-yl)propanal (75 mg, 0.245 mmol), 1-(2,3-dimethylphenyl)piperazine (47 mg, 0.245 mmol), DIPEA (0.064 mL, 0.368 mmol) and NaBH(OAc)3 (156 mg, 0.735 mmol).

reactant | 3-(5-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3-yl)propanal | 0.245 mmol, 75 mg | COC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C19H18N2O2
reactant | 1-(2,3-dimethylphenyl)piperazine | 0.245 mmol, 47 mg | CC1=C(C=CC=C1C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.368 mmol, 0.064 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.735 mmol, 156 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(5-(4-methoxyphenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-(2,3-dimethylphenyl)piperazine | COC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCCN1CCN(CC1)C1=C(C(=CC=C1)C)C | C31H36N4O
